US06369078B1
N-Boc-2-Methyl-Piperidine
A solution of N-Boc-Piperidine (15.0 g, 80.95 mmol) in ether (160 mL) was cooled to −78° C. and treated with TMEDA (15.9 mL, 105.2 mmol) followed by sec-BuLi (85 mL, 105.2 mmol) dropwise. The mixture was stirred for 3 h at −78° C. and then treated with a solution of dimethyl sulfate (15.3 mL, 161.9 mmol) in 65 mL of ether. The mixture was warmed to room temperature and then was diluted with water and extracted with ether. The combined extracts were dried over K2CO3 and then concentrated to give a crude product as a colorless oil. The product was purified by column chromatography on silca gel with 5% EtOAc/hexane to afford 16.0 g (81%) of product as a clear oil which was homogeneous by TLC analysis. 1H NMR (300 MHz) 67 4.33 (m, 1 H), 3.92-3.81 (pair of br. d, 1 H), 2.81-2.72 (dt, 1H), 1.60-1.36 (m, 15 H), 1.09-1.07 (d, 3 H); 13C NMR (75 MHz) 154.9 (s), 78.6 (s), 45.9 (s), 38.6 (s), 29.9 (s), 28.4 (s), 25.6 (s), 18.6 (s), 15.6 (s), ppm.

reactant | N-Boc-Piperidine | 80.95 mmol, 15.0 g | C(=O)(OC(C)(C)C)N1CCCCC1 | C10H19NO2
reactant | TMEDA | 105.2 mmol, 15.9 mL | CN(C)CCN(C)C | C6H16N2
reactant | sec-BuLi | 105.2 mmol, 85 mL | [Li]C(C)CC
reactant | dimethyl sulfate | 161.9 mmol, 15.3 mL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | ether | 160 mL | CCOCC | C4H10O
solvent | ether | 65 mL | CCOCC | C4H10O
solvent | water | O | H2O
product | N-Boc-2-Methyl-Piperidine | 16.0 g, 81% | C(=O)(OC(C)(C)C)N1C(CCCC1)C | C11H21NO2
